US06670373B1
3-(2-Chloro-6-fluoro-phenyl)-5-methyl-4H-pyrazole-4-carboxylic Acid Ethyl Ester
2-(2-Chloro-6-fluoro-benzoyl)-3-methylamino-but-2-enoic acid ethyl ester (500 mg, 1.6 mmol) was taken in acetic acid (10 mL) and was treated with hydrazine hydrate at 150° C. overnight. Acetic acid is removed under reduced pressure and the residue was dissolved in ethyl acetate (20 mL) and washed with water, (2×10 mL), brine (2×10 mL), dried over sodium sulfate, filtered and evaporated to yield the title compound (588 mg, crude).

reactant | 2-(2-Chloro-6-fluoro-benzoyl)-3-methylamino-but-2-enoic acid ethyl ester | 1.6 mmol, 500 mg | C(C)OC(C(=C(C)NC)C(C1=C(C=CC=C1F)Cl)=O)=O | C14H15ClFNO3
reactant | hydrazine hydrate | O.NN
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3-(2-Chloro-6-fluoro-phenyl)-5-methyl-4H-pyrazole-4-carboxylic Acid Ethyl Ester | 588 mg | C(C)OC(=O)C1C(=NN=C1C)C1=C(C=CC=C1F)Cl | C13H12ClFN2O2
